US05173493
A solution of 8,9-dihydro-10-methyl-7-[(pyridin-3-yl)methylene]pyrido[1,2-a]indol-6(7H)-one (520 mg), ammonium formate (568 mg) and 10% palladium on carbon (200 mg) in acetic acid (20 ml) was stirred at 110° C. for 2 hours. After filtration of the catalyst, the filtrate was evaporated in vacuo. The residue was diluted with 10% methanol-chloroform. The solution was washed with 5% aqueous solution of sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Purification of the residue with silica gel chromatography (5% methanol-chloroform), followed by recrystallization from ethyl acetate-ether, gave 8,9-dihydro-10-methyl-7-[(pyridin-3-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (273 mg).

reactant | 8,9-dihydro-10-methyl-7-[(pyridin-3-yl)methylene]pyrido[1,2-a]indol-6(7H)-one | 520 mg | CC1=C2N(C3=CC=CC=C13)C(C(CC2)=CC=2C=NC=CC2)=O | C19H16N2O
reactant | ammonium formate | 568 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 8,9-dihydro-10-methyl-7-[(pyridin-3-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 273 mg | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2C=NC=CC2)=O | C19H18N2O
